US05594023
3-Amino-3-(2-chlorophenyl)-5-ethoxy-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydroindol-2-one
This compound is prepared according to the procedure described in EXAMPLE 30 from 3-amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydroindol-2-one and 4-(N',N'-diethylureido)benzenesulfonyl chloride.

reactant | 3-amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydroindol-2-one | NC1(C(NC2=CC=C(C=C12)OCC)=O)C1=C(C=CC=C1)Cl | C16H15ClN2O2
reactant | 4-(N',N'-diethylureido)benzenesulfonyl chloride | C(C)N(C(NC1=CC=C(C=C1)S(=O)(=O)Cl)=O)CC | C11H15ClN2O3S
product | 3-Amino-3-(2-chlorophenyl)-5-ethoxy-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydroindol-2-one | NC1(C(N(C2=CC=C(C=C12)OCC)S(=O)(=O)C1=CC=C(C=C1)NC(=O)N(CC)CC)=O)C1=C(C=CC=C1)Cl | C27H29ClN4O5S
